US06747023B1
1-[[(6RS)-6-Aminomethyl-5,6,7,8-tetrahydronaphthalen-2-yl]carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
In saturated aqueous hydrochloric acid in ethanol (5 ml), 1-[[(6RS)-6-(N-tert-butoxycarbonylaminomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl]carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine (0.22 g) was dissolved, followed by stirring at room temperature for 90 minutes. The residue obtained by distilling off the solvent under reduced pressure was recrystallized from a mixed solvent of ethanol and diethyl ether, whereby the title compound (0.14 g, 68%) was obtained.

reactant | 1-[[(6RS)-6-(N-tert-butoxycarbonylaminomethyl)-5,6,7,8-tetrahydronaphthalen-2-yl]carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 0.22 g | C(C)(C)(C)OC(=O)NCC1CC=2C=CC(=CC2CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C31H36ClN3O5S
solvent | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[[(6RS)-6-Aminomethyl-5,6,7,8-tetrahydronaphthalen-2-yl]carbonyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.NCC1CC=2C=CC(=CC2CC1)C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | InChI=1S/C26H28ClN3O3S.ClH/c27-24-7-5-22-16-25(8-6-21(22)15-24)34(32,33)30-11-9-29(10-12-30)26(31)23-4-3-19-13-18(17-28)1-2-20(19)14-23;/h3-8,14-16,18H,1-2,9-13,17,28H2;1H
